US07713993B2
Synthesis of (E)-N-[3-(4-fluorophenyl)-2-oxotetrahydropyrimidin-1-yl]-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylamide
IPEA (0.51 mL), (E)-3-[3-methoxy-4-(4-methylimidazol-1-yl)phenyl]acrylic acid (150 mg) and BOPCl (0.18 g) were added to a solution of 1-amino-3-(4-fluorophenyl)tetrahydropyrimidin-2-one (132 mg) in methylene chloride (5 mL) at room temperature, and the reaction solution was stirred at room temperature for 13 hours. Water was added to the reaction solution, followed by extraction with chloroform. The resulting extract washed with a saturated sodium bicarbonate solution. The resulting organic layer was dried over magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (carrier: Chromatorex NH; elution solvent: heptane-ethyl acetate system, then ethyl acetate-methanol system) to obtain 261 mg of the title compound. The property value of the compound is as follows.

reactant | IPEA | 0.51 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (E)-3-[3-methoxy-4-(4-methylimidazol-1-yl)phenyl]acrylic acid | 150 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)/C=C/C(=O)O | C14H14N2O3
reactant | BOPCl | 0.18 g | C1COC(=O)N1P(=O)(N2CCOC2=O)Cl | C6H8ClN2O5P
reactant | 1-amino-3-(4-fluorophenyl)tetrahydropyrimidin-2-one | 132 mg | NN1C(N(CCC1)C1=CC=C(C=C1)F)=O | C10H12FN3O
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
product | (E)-N-[3-(4-fluorophenyl)-2-oxotetrahydropyrimidin-1-yl]-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylamide | 261 mg | FC1=CC=C(C=C1)N1C(N(CCC1)NC(\C=C\C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O)=O | C24H24FN5O3
